US07601702B2
5′-[(4-cyanotrityl)amino]-2′,5′-dideoxyuridine (22)
4-Cyanotrityl chloride (0.406 g, 1.34 mmol) was added to a solution of 5′-amino-2′,5′-dideoxyuridine (0.239 g, 1.05 mmol) in dry pyridine (5 mL). The reaction mixture was stirred at 40° C. for 48 h. The reaction mixture was filtered and the filtrate concentrated in vacuo. Purification was carried out using flash column chromatography eluting the column (ISOLUTE SI) with a gradient of 0→5% CH3OH in CHCl3. The fractions with Rf=0.31 (10% CH3OH/CHCl3) afforded the title compound as a white crystalline solid (0.386 g, 37%).

reactant | 4-Cyanotrityl chloride | 1.34 mmol, 0.406 g | C(#N)C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=C1 | C20H14ClN
reactant | 5′-amino-2′,5′-dideoxyuridine | 1.05 mmol, 0.239 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C9H13N3O4
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5′-[(4-cyanotrityl)amino]-2′,5′-dideoxyuridine | 0.386 g, 37% | C(#N)C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)NC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C=C2)O)C=C1 | C29H26N4O4
